Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Iodine-Iodine Containing
 
Attending: ___.
 
Chief Complaint:
Fevers
 
Major Surgical or Invasive Procedure:
___: ___ line placement
___: Nephrostogram and nephrostomy tube replacement

 
History of Present Illness:
___ F h/o renal transplant x 2 c/b ureteral stricture and 
recurrent complicated UTI's, s/p recent aborted 
uretero-ureterostomy ___ with a nephrostomy tube now w/ 
fevers and likely recurrent UTI.  She was recently (___)
taken to OR for planned uretero-ureterostomy c/b massive blood 
loss.  Her perc nephrostomy tube was last exchanged on ___.
She reports about 2 days of fevers as high as ___ F associated 
with chills and minimal nausea without emesis.  She denies 
diarrhea or constipation.  She reports just completing a 3 week 
course of Flagyl for suspected C. diff.  She states the flagyl 
was started about 3 weeks ago because she had diarrhea and some 
cramping, but reports there were no cultures.  She reports no 
change in her nephrostomy output (no mal odor or color change).

Of note the patient has h/o hypercoagulable disorder (elevated 
factor VIII). She developed ESRD ___ strep glomerulonephritis, 
is s/p LRRT ___ removed for acute thrombus, re-transplanted 
___ h/o LURT ___ c/b hematoma requiring 
evacuation/washout. This was further complicated by multiple 
UTIs (VRE and multi drug resistent E.coli), ureteral stricture, 
hydronephrosis and renal
insufficiency.

 
Past Medical History:
1. ESRD secondary to possible streptococcal glomerulonephritis 
(___) on hemodialysis since ___, then underwent 
living-related renal transplant from her daughter in ___ (at 
___) but kidney thrombosed and was removed within 24 
hours. S/p ___ renal transplant on ___, post op course 
complicated by retroperitoneal bleeding with washout x2, 
pulmonary edema requiring intubation and CVVH, many blood 
transfusions, UTI/pan-resistant E.coli, removal of ureteral 
stent was removed, vaginal bleeding likely secondary to 
peritoneal hematoma. 
2. elevated factor VIII levels and high fibrinogen levels: on 
coumadin
3. hypertension - well controlled on metoprolol
4. gout - on allopurinol
5. DM - on glipizide
 
Social History:
___
Family History:
-mother alive at age ___ with HTN and DM2  
-father alive at age ___ with TBI and vision loss
-four siblings, all healthy 
-children all healthy 

 
Physical Exam:
VS: 98.4 83 118/72 18 100% RA 
Gen: NAD, AOx3
___: Reg
Pulm: CTAB, no resp distress
Abd: S/NT/ND  Well healed incisions consistent with past 
surgical
history.  Percutaneous nephrostomy tube in place, no drainage
around catheter, clear/yellow urine in bag.
___: no LLE

 
Pertinent Results:
On Admission: ___ 
2.4* RBC-3.42* Hgb-10.3* Hct-29.9* MCV-88 MCH-30.1 MCHC-34.4 
RDW-15.2 Plt ___ PTT-26.4 ___
Glucose-126* UreaN-32* Creat-1.8* Na-136 K-4.9 Cl-104 HCO3-19* 
AnGap-18
Calcium-9.2 Phos-3.1 Mg-1.9
tacroFK-4.8*
Lactate-1.___ y.o. F s/p renal transplant x 2 c/b ureteral stricture and 
recurrent complicated UTI's,  s/p recent aborted 
uretero-ureterostomy ___ presented w/ fevers and likely 
recurrent UTI. She was admitted to the Transplant Surgery 
Service. Urine and blood cultures were sent. She was started on 
Linezolid, Meropenum and Flagyl empirically. Fevers abated. WBC 
dropped to 1.3 on hospital day 2. ID was consulted and 
recommendations to switch Flagyl to po vanco to eliminate the 
WBC suppression. Vanco po continued for 4 days. Stool was 
negative for c.diff.  EBV and CMV VLs were sent. CMV was 
negative and EBV was negative to date. CXR demonstrated 
resolution of previous pneumonia. 

UA was positive. Urine cx from ___ isolated multidrug resistant 
E.coli. Linezolid stopped on 3.9. Meropenum continued for 4 days 
stopping on ___ when this was switched to Imipenem on ___. Per 
ID, Ertapenum was not an option in place of meropenum as there 
is a 50% chance of resistance to E. coli with Ertapenum. 
Therefore, Imipenem continued. 

On ___, a nephrogram was performed with exchange of the 
nephrostomy tube. Ureteral stricture was still present. On ___, 
she also underwent placement of ultrasound and fluoroscopically 
guided ___ double-lumen PICC line placement via the right 
brachial venous approach. Final internal length was 36 cm, with 
the tip positioned in SVC. The line was ready for use.

She remained afebrile. Repeat urine cultures were sent from the 
old nephrostomy tube tip site which isolated vanco sensitive 
enterococcus. Another urine cx from the nephrostomy tube on ___ 
isolated yeast and vanco sensitive enterococcus. Fluconazole 
(oral) was started on ___. Imipenem was continued and the plan 
was for a 3 week course to complete on ___. Arrangements were 
made for her to get Imipenem via the ___ at her local ED at the 
___ Emergency Department ___ 
in ___, ___. 

Urine outputs were excellent via the nephrostomy tube averaging 
~ 1800ml/day. Creatinine was 2.1 on admission, but trended down 
to 1.6-1.5 and remained there. She continued to experience 
neutropenia with WBC as low as 1.3 and 1.4. This was treated by 
holding Myfortic and giving Neupogen on ___ and 
___. WBC was responsive and was 3.1 at time of discharge. The 
plan was to resume Myfortic 180 mg bid and for her to give 
another dose of Neupogen at home on ___. 

INR increased due to Fluconazole. Home Coumadin dose was 
adjusted and was held for several days as inr became supra 
therapeutic. She received the following doses per inr levels:

___ for inr of 1.8
___ for inr of 1.8
___ for inr of 2.1
___ for inr of  2.6
___ held for inr of 3.4
___ held for inr of 3.9
___ held for inr of 3.0

Recommendations were to resume Coumadin on ___ at 1mg per day. 
Outpatient ___ (___) at ___ 
___ in ___ was contacted. She will resume 
management of Coumadin there on ___ at 1:30. 

She was discharged to home in stable condition to f/u with Dr. 
___ on ___ and Dr. ___ from ID on ___. 

 
Medications on Admission:
tacrolimus 2 mg'', myfortic 180 mg''', fish oil-dha-epa
1,200
mg-144 mg-216 mg 1 cap daily,
mv-iron-min-FA-inositol-choline-PABA 400 mcg-125 mg-250 mg-35 mg
Tab (dose uncertain), Bactrim SS' 
AsA 81', Allopurinol ___, Glipizide 5', Warfarin alternate 2
mg/3mg daily, Gabapentin 300''',  metoprolol succinate ER 100'
Pantoprazole 40', colace 100'', Senna 8.6'', Ambien 10' 

 
Discharge Medications:
1. imipenem-cilastatin 500 mg Recon Soln Sig: Two Hundred Fifty 
(250) mg Intravenous Q8H (every 8 hours) for 17 days: Through 
___.
Disp:*50 Recon Soln(s)* Refills:*0*
2. glipizide 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. metoprolol succinate 100 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
4. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
5. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
6. gabapentin 300 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
7. allopurinol ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. sulfamethoxazole-trimethoprim 400-80 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
9. fluconazole 200 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours) as needed for start ___.
Disp:*16 Tablet(s)* Refills:*0*
10. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
11. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
12. Outpatient Lab Work
___ and ___ weekly labs:
CBC, Chem 7, Ca, Phos, AST, alt, alk phos, T Bili, Trough 
Prograf
Please fax results to transplant clinic ___ ___
 and fax to ___ clinic: ___ attn: ___ 
13. warfarin 1 mg Tablet Sig: One (1) Tablet PO once a day: hold 
today ___ 
resume  ___.  
14. Myfortic 180 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO BID (2 times a day).  
15. filgrastim 480 mcg/0.8 mL Syringe Sig: One (1) dose 
Injection 1X (ONE TIME).
Disp:*1 dose* Refills:*2*
16. tacrolimus 1 mg Capsule Sig: Two (2) Capsule PO Q12H (every 
12 hours).  
17. Medication changes
myfortic has been decreased to twice daily
coumadin should be held ___ then resume at 1mg ___
Prograf decreased to 1.5mg twice daily

 
Discharge Disposition:
Home
 
Facility:
 ___
 
Discharge Diagnosis:
UTI, enterococcus/yeast/E.coli
Continued ureteral stricture s/p kidney transplant
neutropenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call the transplant clinic at ___ for fever, 
chills, nausea, vomiting, diarrhea, cloudiness of the urine, 
urine develops a foul odor, looks bloody in appearance, the 
urostomy drain dislodges or if the insertion site becomes red, 
has drainage or bleeding.
Change the drain sponge daily and inspect the site.
You will continue the IV antibiotics at ___ 
___ Emergency Department ___, Dr ___, 
your PCP, is the provider calling in the orders for the 
antibiotics.
Continue labwork per transplant clinic recommendations, we are 
Currently recommending ___ and ___. 
Additionally, continue having your ___ checked with the 
___ starting ___ at 1:20.

 
Followup Instructions:
___